US04794188
B. 1-[3-(2-benzofurylmethoxy)phenyl]-1-hexanol
2-Bromomethylbenzofuran (5 g, 0.024 mol) and 1-(3-hydroxyphenyl)-1-hexanol (4.7 g,0.024 mol) were dissolved in DMSO (75 ml). To this clear, homogeneous solution was added an aqueous solution of sodium hydroxide (12.5 ml, 2N solution; 0.025 mol NaOH). Immediately after the sodium hydroxide solution was added, the reaction mixture became warm (45°-50° C.). This clear, homogeneous solution was stirred at room temperature for 6 hours, and then poured into water (300 ml). The organics were extracted thoroughly with ethyl acetate (3×50 ml), and the combined organic extract was washed with water, 1N sodium hydroxide solution (to remove excess phenol), water, 0.1N hydrochloric acid solution, water and finally brine. After drying over anhydrous magnesium sulfate, all volatiles were removed from the ethyl acetate extract to leave a clear liquid (7.2 g) which was chromatographed on silica gel using 10% ethyl acetate in hexanes as eluent to obtain the pure compound as a clear, colorless liquid (4.4 g, 56%).

reactant | 2-Bromomethylbenzofuran | 0.024 mol, 5 g | BrCC=1OC2=C(C1)C=CC=C2 | C9H7BrO
reactant | 1-(3-hydroxyphenyl)-1-hexanol | 0.024 mol, 4.7 g | OC=1C=C(C=CC1)C(CCCCC)O | C12H18O2
reactant | sodium hydroxide | 0.025 mol, 2N, 12.5 ml | [OH-].[Na+]
reactant | water | 300 ml | O | H2O
solvent | DMSO | 75 ml | CS(=O)C | C2H6OS
product | 1-[3-(2-benzofurylmethoxy)phenyl]-1-hexanol | 7.2 g | O1C(=CC2=C1C=CC=C2)COC=2C=C(C=CC2)C(CCCCC)O | C21H24O3
